US08252931B2
Lithium hydroxide monohydrate (1.28 g, 30.6 mmol) is suspended in THF (50 mL) and cooled to 0° C. Hydrogen peroxide (50 wt % in water, 2.81 mL, 91.79 mmol) is added dropwise. Reaction is stirred at 0° C. for 15 min and the title C compound, (4R,5S)-3-((R)-3-cyclopentyl-2-phenyl-propionyl)-4-methyl-5-phenyl-oxazolidin-2-one (3.85 g, 10.2 mmol) is added in five separate portions, allowing portions to dissolve completely between additions. The reaction is allowed to stir and warm to RT overnight. The reaction is then concentrated to a sticky white solid. This is dissolved in ethyl acetate (25 mL)/1 N HCl (25 mL). The organic solution is dried over anhydrous sodium sulfate, filtered, and concentrated to afford the crude product as a yellow oil. The crude product is chromatographed over silica eluting with 5→65% ethyl acetate in hexanes to afford (R)-3-cyclopentyl-2-phenyl -propionic acid as a white solid: 1H NMR (400 MHz, CDCl3) δ 1.1 (m, J=11.6, 7.8, 7.8, 3.9 Hz, 2 H) 1.5 (m, 2 H) 1.6 (m, 2 H) 1.7; LC/MS 217.2 (M−1).

reactant | Lithium hydroxide monohydrate | 30.6 mmol, 1.28 g | O.[OH-].[Li+]
reactant | Hydrogen peroxide | 91.79 mmol, 2.81 mL | OO | H2O2
reactant | (4R,5S)-3-((R)-3-cyclopentyl-2-phenyl-propionyl)-4-methyl-5-phenyl-oxazolidin-2-one | 10.2 mmol, 3.85 g | C1(CCCC1)C[C@@H](C(=O)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C24H27NO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (R)-3-cyclopentyl-2-phenyl -propionic acid | C1(CCCC1)C[C@@H](C(=O)O)C1=CC=CC=C1 | C14H18O2
